US04684645
To a suspension of 2.42 gm NaH (50% oil dispersion washed 3×hexanes) in 50 ml of THF at 0° C. was added solid 5 gm (0.025 mol) of 3-aminodihydrocarbostyrilhydrochloride (T. J. McCord, Arch. of Biochem. & Biophys. 102 48 (1963)) stirring at 0° C. until the evolution of hydrogen had ceased at which time the reaction mixture was warmed to room temperature and stirred a further 1 hour. To the stirred reaction mixture was added dropwise a solution of 6 gm of t-butyl iodoacetate in 20 ml of THF stirring a further 2 hours at room temperature at which time the reaction was quenched with 20 ml of saturated NaHCO3. The reaction mixture was diluted with 20 ml of H2O and extracted 2×50 ml of 9:1 ethylacetate:acetonitrile. The organic layers were combined, filtered through MgSO4 and concentrated in vacuo to give 5 gm of 1-t-butoxycarbonylmethyl-3 -aminodihydrocarbostyril.

reactant | NaH | 2.42 gm | [H-].[Na+]
reactant | 3-aminodihydrocarbostyrilhydrochloride | 0.025 mol, 5 gm | Cl.NC1C(NC2=CC=CC=C2C1)=O
reactant | hydrogen | [H][H] | H2
reactant | t-butyl iodoacetate | 6 gm | ICC(=O)OC(C)(C)C | C6H11IO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-t-butoxycarbonylmethyl-3 -aminodihydrocarbostyril | 5 gm | C(C)(C)(C)OC(=O)CN1C(=O)C(CC2=CC=CC=C12)N | C15H20N2O3
